US04460580
A mixture of 21 g of α-(aminomethyl)-4-benzyloxybenzyl alcohol and 12 g of 6-(2-bromoethoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one is stirred in an oil bath at 130° for 1 hour. The reaction mixture is partitioned between 500 ml of ethyl acetate and 50 ml of 2N aqueous ammonia solution, the organic phase is separated off and evaporated and the residue is recrystallised from isopropanol. 4-Benzyloxy-α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol with a melting point of 160°-162° is obtained.

reactant | α-(aminomethyl)-4-benzyloxybenzyl alcohol | 21 g | NCC(C1=CC=C(C=C1)OCC1=CC=CC=C1)O | C15H17NO2
reactant | 6-(2-bromoethoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one | 12 g | BrCCOC=1C=CC2=C(C(NC(O2)(C)C)=O)C1 | C12H14BrNO3
product | 4-Benzyloxy-α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol | C(C1=CC=CC=C1)OC1=CC=C(C(CNCCOC2=CC(=C(C=C2)O)C(N)=O)O)C=C1 | C24H26N2O5
